US05698696
Potassium tert-butoxide (1.53 g, 13.68 mmol) is added portionwise at 0° C. and under nitrogen to a suspension of methyltriphenylphosphonium bromide (4.9 g, 13.68 mmol) in dry tetrahydrofuran (57 mL) and the reaction mixture is stirred for 1 hr at room temperature. The 5-(2-methyl-propionoxy)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one (3.31 g, 11.4 mmol) in dry tetrahydrofuran (20 mL) is dropwise added at 0° C. to the yellow suspension and the reaction is stirred overnight at room temperature. Water is added and most of tetrahydrofuran is evaporated under reduced pressure. The residue is taken up in ethyl acetate, washed with brine, dried (magnesium sulfate) and the solvent is evaporated to dryness. Purification by flash chromatography eluting with heptane/ethyl acetate 95:5 and then 90:10 gave 2.8 g (85%) of 3-methylene-5-(2-methylpropionoxy)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran as a yellow oil. Rf=0.79 (heptane/ethyl acetate 70:30)

reactant | Potassium tert-butoxide | 13.68 mmol, 1.53 g | CC(C)([O-])C.[K+]
reactant | 5-(2-methyl-propionoxy)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one | 11.4 mmol, 3.31 g | CC(C(=O)OC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C)C | C17H22O4
reactant | Water | O | H2O
catalyst | methyltriphenylphosphonium bromide | 13.68 mmol, 4.9 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 57 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-methylene-5-(2-methylpropionoxy)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran | 2.8 g, 85% | C=C1C(OC2=C1C(=C(C(=C2C)C)OC(C(C)C)=O)C)(C)C | C18H24O3
